US04917826
N-(4'-Hydroxy-3'-methoxybenzyl)-3-methoxyestra-1,3,5(10)-triene-17β-amine
4-Hydroxy-3-methoxybenzylhydrochloride amine (8.32 g), estrone methyl ether (2.51 g), sodium cyanoborohydride (0.55 g) were added to methanol (30 ml) followed by tetrahydrofuran (22 ml). The solution was allowed to stir for hour 4 days at room temperature. TLC (ethyl acetate) revealed the formation of a more polar compound and the presence of some starting material. The solution was heated to reflux for a few more days. TLC revealed the reaction did not complete. Excess solvent was removed at reduced pressure. Water was added and made basic (pH 9) with aqueous 50% NaOH. The solution was extracted with ether (3X). The combined extracts were dried (Na2SO4), filtered and concentrated. The oil was mixed with 20 g of flash silica gel and ethyl acetate. The solvent was removed under reduced pressure and the silica gel was poured on top of the chromatographic column. The compound was eluted with ethyl acetate. The title compound was obtained as a solid and was recrystallized from ethyl acetate (0.488 g), mp 169°-169.5° C. (PLA2, diabetes-)

reactant | estrone methyl ether | 2.51 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=C3C=CC(=C4)OC | C19H24O2
reactant | sodium cyanoborohydride | 0.55 g | C(#N)[BH3-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
reactant | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4'-Hydroxy-3'-methoxybenzyl)-3-methoxyestra-1,3,5(10)-triene-17β-amine | OC1=C(C=C(CN[C@@H]2[C@]3(C)[C@@H](CC2)[C@@H]2CCC=4C=C(C=CC4[C@H]2CC3)OC)C=C1)OC | C27H35NO3
